US08134004B2
Step CA9D: 7-Tert-Butylquinoline-3-carboxylic acid
A mixture of Ethyl 7-tert-butylquinoline-3-carboxylate (1.63 g, 6.33 mmol) in 2M sodium hydroxide aqueous solution (6.4 ml, 12.8 mmol) and ethanol (50 ml) was heated at 75° C. for 2 hours. After the solvent was evaporated in vacuo, the residue was diluted with water. The aqueous solution was acidified to pH3 with 2M hydrochloric acid aqueous solution with ice-cooling and extracted with ethyl acetate. The combined solution was washed with brine, dried over sodium sulfate and concentrated in vacuo to give crude product, which was recrystallized from ethyl acetate and hexane to give the title compound (1.27 g, 88%) as a white solid. MS (ESI) m/z 228 (M−H)−, 230 (M+H)+. LC-MS: 2.46 min (Neutral full range 4—96)

reactant | Ethyl 7-tert-butylquinoline-3-carboxylate | 6.33 mmol, 1.63 g | C(C)(C)(C)C1=CC=C2C=C(C=NC2=C1)C(=O)OCC | C16H19NO2
reactant | sodium hydroxide | 12.8 mmol, 2M, 6.4 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-Tert-Butylquinoline-3-carboxylic acid | 1.27 g, 88% | C(C)(C)(C)C1=CC=C2C=C(C=NC2=C1)C(=O)O | C14H15NO2
